US05013749
Sodium (3R,5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate
A suspension of (3R,5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoic acid (200 mg) in sodium hydrogen carbonate (36.8 mg) and water (80 ml) was stirred at room temperature. After 19 h ethanol (20 ml) was added and the resulting clear solution stirred at room temperature. After 15 min the mixture was evaporated to dryness, the residue was dissolved in water (50 ml), filtered and then freeze dried to give the title compound (219 mg) as a white fluffy solid, [α]D +22.6° (C 0.53, H2O), δ(D2O) 1.20-1.55, 1.55-1.78 (m, 2H, CH(OH)CH2CH(OH)), 1.33 (d, J 7 Hz, 6H, CH(CH3)2), 2.26 (d, J 7 Hz, 2H, CH2CO2Na), 3.28 (septet, J 7 Hz, 1H, --CH(CH3)2, 3.67 (m, 1H, =CHCH(OH)CH2CH(OH)). 4.35 (m, 1H, CH=CHCH(OH)), 5.49 (dd, J 14 Hz and 7 Hz, 1H, NCH=CH), 6.72 (d, J 14 Hz, 1H, NCH=CH), 6.97 (t, 9 Hz, 2H, C-3 and C-5 protons of 4-fluorophenyl), 6.90-7.40 (m, 6H, aromatics).

reactant | (3R,5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoic acid | 200 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)O)O)O)C(C)C | C25H26F2N2O4
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium hydrogen carbonate | 36.8 mg | C(O)([O-])=O.[Na+]
solvent | water | 80 ml | O | H2O
product | Sodium (3R,5S,E)-7-[4,5-bis-(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-3,5-dihydroxy-6-heptenoate | 219 mg | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C.[Na+] | InChI=1S/C25H26F2N2O4.Na/c1-15(2)25-28-23(16-3-7-18(26)8-4-16)24(17-5-9-19(27)10-6-17)29(25)12-11-20(30)13-21(31)14-22(32)33;/h3-12,15,20-21,30-31H,13-14H2,1-2H3,(H,32,33);/q;+1/p-1/b12-11+;/t20-,21-;/m1./s1
